US07329662B2
2-(2,4-Dichloro-phenyl)-4-trifluoromethyl-imidazo[1,5-a]pyrimidine-8-carbonitrile
Reaction of 1-(2,4-dichloro-phenyl)-4,4,4-trifluoro-butane-1,3-dione (285 mg, 1.0 mmol), prepared from commercially available 2,4-dichloro-acetophenone according to general procedure A, and 4-amino-5-cyano-1H-imidazole (108 mg, 1.0 mmol) according to general procedure B yielded the title compound as a yellow solid (43 mg, 12%). MS (ISP) 357.0 [(M+H)+]; mp 139° C.

reactant | 1-(2,4-dichloro-phenyl)-4,4,4-trifluoro-butane-1,3-dione | 1.0 mmol, 285 mg | ClC1=C(C=CC(=C1)Cl)C(CC(C(F)(F)F)=O)=O | C10H5Cl2F3O2
reactant | 4-amino-5-cyano-1H-imidazole | 1.0 mmol, 108 mg | NC=1N=CNC1C#N | C4H4N4
product | 2-(2,4-Dichloro-phenyl)-4-trifluoromethyl-imidazo[1,5-a]pyrimidine-8-carbonitrile | 43 mg, 12% | ClC1=C(C=CC(=C1)Cl)C1=NC=2N(C(=C1)C(F)(F)F)C=NC2C#N | C14H5Cl2F3N4
